US07176208B2
The quinoxalin-2-one of the present example is prepared with 3,4-Diamino-benzenesulfonic acid and (thiophen-2-yl) oxo-acetic acid via the method described in Example 12 to afford 2-Oxo-3-thiophen-2-yl-1,2-dihydro-quinoxaline-6-sulfonic acid.

reactant | 3,4-Diamino-benzenesulfonic acid | NC=1C=C(C=CC1N)S(=O)(=O)O | C6H8N2O3S
reactant | (thiophen-2-yl) oxo-acetic acid | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
product | 2-Oxo-3-thiophen-2-yl-1,2-dihydro-quinoxaline-6-sulfonic acid | O=C1NC2=CC=C(C=C2N=C1C=1SC=CC1)S(=O)(=O)O | C12H8N2O4S2
